US09428502B2
Compound 244.1. 1-Benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
Into a 100-mL three neck round-bottom flask, was placed a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (3.60 g, 18.6 mmol) in THF (50 mL). Sodium hydride (742 mg, 18.6 mmol, 60% dispersion in mineral oil) was carefully added in portions at 0° C. The resulting mixture was stirred for 30 min at 0° C., then benzyl bromide (2.21 mL, 18.6 mmol) was added. The resulting mixture was stirred overnight at room temperature, then carefully quenched with water (10 mL). The pH of the mixture was adjusted to 9-10 with aqueous HCl (2 M) and the aqueous phase was extracted with EtOAc (300 mL). The combined organic layers were washed with brine (2×150 mL), dried (Na2SO4), filtered and concentrated under vacuum. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1/2) as eluent to yield the title compound as a yellow oil (3.47 g, 66%).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 18.6 mmol, 3.60 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | Sodium hydride | 18.6 mmol, 742 mg | [H-].[Na+]
reactant | benzyl bromide | 18.6 mmol, 2.21 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.47 g, 66% | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
